US04062862
16.6 g of o-chloroallylbenzene was dissolved in 100 ml of chloroform and to the mixture was added dropwise, while maintaining the temperature at 0° - 5° C, 25 g of m-chloroperbenzoic acid dissolved in 600 ml of chloroform. The resulting mixture was allowed to stand at the same temperature for 72 hours. After the separated m-chlorobenzoic acid was filtered off, the filtrate was washed with 10% sodium hydroxide solution, then with water and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue, which was distilled under reduced pressure to give 7.2 g (yield 38.8%) of o-chloroallylbenzene oxide having a boiling point of 93° C/3 mmHg.

reactant | o-chloroallylbenzene | 16.6 g | ClC=CCC1=CC=CC=C1 | C9H9Cl
reactant | m-chloroperbenzoic acid | 25 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | o-chloroallylbenzene oxide | 7.2 g, yield 38.8% | ClC=CCC12C(C=CC=C1)O2 | C9H9ClO
